US08461153B2
(3,5-Diethylphenyl)methanol
To a cooled (dry ice) mixture of 3,5-dibromobenzyl alcohol (1 g, 3.8 mmol) and PdCl2(dppf) [0.07 eq] in dry THF (10 mL) was added 1.1 M Et2Zn (15 mL, 16 mmol, 4.4 eq). The resulting mixture was allowed to warm to RT, stirred at 45° C. (programmed block temperature, overnight). To bring the reaction to completion (disappearance of both starting material and monoalkylated product) additional 1.1 M Et2Zn (10 mL, 11 mmol, 2.9 eq) was added with continued stirring at 45° C. (again overnight). After cooling, the reaction mixture was then added to a stirred mixture of dilute HCl and heptane/EtOAc (2:1; ˜200 mL), and the organic layer was dried (Na2SO4), filtered, and evaporated. Chromatography (10% EtOAc/heptane) gave 0.33 g (yield of 53%) of title product. 1H NMR (300 MHz, CDCl3) δ 1.22 (t, 6H), 1.65 (br s, 1H), 2.61 (q, 4H), 4.66 (s, 2H), 6.95-7.05 (m, 3H).

reactant | dry ice | C(=O)=O | CO2
reactant | 3,5-dibromobenzyl alcohol | 3.8 mmol, 1 g | BrC=1C=C(CO)C=C(C1)Br | C7H6Br2O
reactant | Et2Zn | 16 mmol, 1.1 M, 15 mL, 4.4 eq | [Zn](CC)CC
reactant | Et2Zn | 11 mmol, 1.1 M, 10 mL, 2.9 eq | [Zn](CC)CC
reactant | HCl | Cl | ClH
reactant | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) | 0.07 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | EtOAc heptane | CCOC(=O)C.CCCCCCC
solvent | heptane EtOAc | ˜200 mL | CCCCCCC.CCOC(=O)C
product | (3,5-Diethylphenyl)methanol | 0.33 g, yield of 53% | C(C)C=1C=C(C=C(C1)CC)CO | C11H16O
